US08710236B2
A solution consisting of 4-[2-(4-Benzofuran-2-ylphenylcarbamoyl)-3-(4-bromo phenyl)-propyl]-benzoic acid methyl ester (200 mg, 0.35 mmol), dichlorobis(tri-o-tolyl phosphine)-palladium(II), 1-cyclohexenyl boronic acid (222 mg, 1.76 mmol) and sodium carbonate (373 mg, 3.5 mmol) in DME (8 mL), EtOH (4 mL) and water (2 mL) was heated at 125° C. for 7 min in the microwave. The crude reaction mixture was partitioned between EtOAc and water. Evaporation of the organic portion afforded crude 4-[2-(4-Benzofuran-2-ylphenylcarbamoyl)-3-(4-cyclohex-1-enylphenyl)-propyl]-benzoic acid methyl ester which was carried on as is for the next step. LC-MS m/z=570 [C38H35NO4+H]+.

reactant | 4-[2-(4-Benzofuran-2-ylphenylcarbamoyl)-3-(4-bromo phenyl)-propyl]-benzoic acid methyl ester | 0.35 mmol, 200 mg | COC(C1=CC=C(C=C1)CC(CC1=CC=C(C=C1)Br)C(N(C1=CC=CC=C1)C1=CC=C2C(=CC=C2)O1)=O)=O | C32H26BrNO4
reactant | 1-cyclohexenyl boronic acid | 1.76 mmol, 222 mg | C1(=CCCCC1)B(O)O | C6H11BO2
reactant | sodium carbonate | 3.5 mmol, 373 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | DME | 8 mL | COCCOC | C4H10O2
solvent | EtOH | 4 mL | CCO | C2H6O
solvent | water | 2 mL | O | H2O
catalyst | dichlorobis(tri-o-tolyl phosphine)-palladium(II) | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | 4-[2-(4-Benzofuran-2-ylphenylcarbamoyl)-3-(4-cyclohex-1-enylphenyl)-propyl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)CC(CC1=CC=C(C=C1)C1=CCCCC1)C(N(C1=CC=CC=C1)C1=CC=C2C(=CC=C2)O1)=O)=O | C38H35NO4
